Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[O:5][C:6]1[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([O:7][C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],0.175725611529
[C:8]=[C:9]([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[O:7]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-0.485801265028
[C:4]([H:5])[H:6].[H:1][O:2][C:3][C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-7.40053917
[C:6]([H:7])[H:8].[H:1][O:2][C:3][O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8],-5.96623488
[C:1]=[C:2]1[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]1([H:10])[H:11]>>[C:1]#[C:2][C:9]([C:3][O:4][C:5]([H:6])([H:7])[H:8])([H:10])[H:11],1.3071060336
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.57723827072
[H:12].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[O:11]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-1.81137724981
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.31229366494
[H:1][C:2]([H:3])=[C:4][H:5].[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.41336045349
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],-5.32968410042
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:7].[O:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],1.72639595297
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9],4.25769944319
[H:1][C:2]#[C:3][O:4][C:5][O:6][H:7]>>[H:1][C:2]#[C:3][O:4][C:5]=[O:6].[H:7],2.68082691739
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]#[C:12][H:13],2.40829341102
[O:1]=[C:2]([H:3])[C:4]([C:5][O:6][H:7])=[C:8][H:9]>>[C:8][H:9].[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][H:7],4.21970352617
[C:1]#[C:2][C:3](=[O:4])[H:5].[H:6]>>[C:1]#[C:2][C:3]([O:4])([H:5])[H:6],-0.513395924697
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:13]([H:14])([H:15])[H:16],1.77045637292
[C:2]1[C:3]([H:4])[C:5]([H:6])[O:7][C:8][C:9]1([H:10])[H:11].[H:1]>>[H:1][C:2]1[C:3]([H:4])=[C:5]([H:6])[O:7][C:8][C:9]1([H:10])[H:11],-4.95202297543
[C:6]([H:7])([H:8])=[C:9][O:10][H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],0.1448405478999999
[C:1]/[C:2]([H:3])=[C:4](\[O:5][O:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][H:3].[C:4]([O:5][O:6])[C:7]([H:8])([H:9])[H:10],4.24615090049
[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],1.89987091363
[O:1]=[C:2][C@:3]([H:4])([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:4].[O:1]=[C:2]=[C:3]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11],2.42995419438
[O:1]=[C:2][O:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],1.42201822447
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[H:1].[O:2]=[C:3](/[C:4]([H:5])=[C:6]/[O:8][H:9])[H:7],2.84053277822
[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-3.71176007447
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:13][H:14],5.32281091698
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8][H:9])[C:11]([H:12])([H:13])[O:14][H:15],5.48296388608
[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2].[O:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.14204886233
[C:14]([H:15])[H:16].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-5.23098452
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:1][C:2]#[C:3]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10].[H:4],1.83896546316
